US05081238
To a solution of 30 mg (0.1 mmol) of 1-benzyl-3-(1-hydroxyethyl)-4-(1-methoxycarbonylethenyl)-2-azetidinone dissolved in 1 ml of methanol, 1 ml (1 mmol) of 1N potassium hydroxide was added with ice bath. After the mixture was stirred at room temperature for 4 hours, 1 ml of 1N hydrochloric acid was added and the extraction with ethyl acetate was conducted three times. The extract was washed with a saturated solution of NaCl, dried with magnesium sulfate and concentrated to give 19 mg of 1-benzyl-4-(1-carboxyethenyl)-3-(1-hydroxyethyl)-2-azetidinone (yield: 68%).

reactant | 1-benzyl-3-(1-hydroxyethyl)-4-(1-methoxycarbonylethenyl)-2-azetidinone | 0.1 mmol, 30 mg | C(C1=CC=CC=C1)N1C(C(C1C(=C)C(=O)OC)C(C)O)=O | C16H19NO4
reactant | potassium hydroxide | 1 mmol, 1N, 1 ml | [OH-].[K+]
reactant | hydrochloric acid | 1N, 1 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 1-benzyl-4-(1-carboxyethenyl)-3-(1-hydroxyethyl)-2-azetidinone | 19 mg, yield: 68% | C(C1=CC=CC=C1)N1C(C(C1C(=C)C(=O)O)C(C)O)=O | C15H17NO4
